US07645881B2
To a solution of compound tert-butyl 5-ethyl-3-iodo-4,6-dimethyl-thieno[2,3-b]pyridine-2-carboxylate (42 mg, 0.1 mmol) in 0.5 mL of DME/H2O (1/1) was added K2CO3 (41 mg, 0.3 mmol), Pd(PPh3)4 (12 mg, 0.01 mmol), p-methoxyphenyl boronic acid (18 mg, 0.12 mmol). The mixture was then heated to reflux for 16 h. After cooling to room temperature, the solvent was evaporated under reduced pressure. The residue was dissolved with ethyl acetate (2 mL), washed with water (2 mL×3), brine, dried over anhydrous Na2SO4 and evaporated under reduced pressure. The crude solid was purified by preparative HPLC to provide t-butyl 5-ethyl-3-(4-methoxy-phenyl)-4,6-dimethyl-thieno[2,3-b]pyridine-2-carboxylate (12 mg, 30%).

reactant | tert-butyl 5-ethyl-3-iodo-4,6-dimethyl-thieno[2,3-b]pyridine-2-carboxylate | 0.1 mmol, 42 mg | C(C)C=1C(=C2C(=NC1C)SC(=C2I)C(=O)OC(C)(C)C)C | C16H20INO2S
reactant | K2CO3 | 0.3 mmol, 41 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | p-methoxyphenyl boronic acid | 0.12 mmol, 18 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | DME H2O | 0.5 mL | COCCOC.O
catalyst | Pd(PPh3)4 | 0.01 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | t-butyl 5-ethyl-3-(4-methoxy-phenyl)-4,6-dimethyl-thieno[2,3-b]pyridine-2-carboxylate | 12 mg, 30% | C(C)C=1C(=C2C(=NC1C)SC(=C2C2=CC=C(C=C2)OC)C(=O)OC(C)(C)C)C | C23H27NO3S
